US08048901B2
(1R,3S)—C,C,C-Trifluoro-N-{3-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxymethyl]phenyl}methanesulfonamide
55 mg of (1R,3S)-3-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxymethyl]phenylamine are dissolved in 2 ml of dichloromethane and cooled to −78° C. 100 μl of triethylamine and then 42 μl of trifluoromethanesulfonic anhydride are added. After 1 h, 200 μl of water are added and the mixture is allowed to warm to room temperature. The mixture is diluted with dichloromethane and washed with 1 NHCL and sat. NaCl solution. The org. phase is dried over sodium sulphate and evaporated. The residue is purified by RP-HPLC. This gives (1R,3S)—C,C,C-trifluoro-N-{3-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxymethyl]phenyl}methanesulfonamide as a colorless oil of molecular weight 538.59 (C26H29F3N2O5S), MS (ESI): 539 (M+H+).

reactant | (1R,3S)-3-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxymethyl]phenylamine | 55 mg | CC1=C(N=C(O1)C=1C=C(C=CC1)C)CO[C@@H]1C[C@@H](CCC1)OCC=1C=C(C=CC1)N | C25H30N2O3
reactant | triethylamine | 100 μl | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 42 μl | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | 200 μl | O | H2O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (1R,3S)—C,C,C-Trifluoro-N-{3-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxymethyl]phenyl}methanesulfonamide | FC(S(=O)(=O)NC1=CC(=CC=C1)CO[C@H]1C[C@H](CCC1)OCC=1N=C(OC1C)C=1C=C(C=CC1)C)(F)F | C26H29F3N2O5S
